US05703096
1(a) 5-[4-(2-Benzylideneaminooxyethoxy)benzyl]-3-tritylthiazolidine-2,4-dione
A solution of 450 mg of diethyl azodicarboxylate in 4 ml of tetrahydrofuran was added dropwise at room temperature to a solution of 383 mg of 2-(benzylideneaminooxy)ethanol (prepared as described in Preparation 1), 1.00 g of 5-(4-hydroxybenzyl)-3-tritylthiazolidine-2,4-dione and 629 mg of triphenylphosphine in 10 ml of tetrahydrofuran, and the resulting mixture was stirred at room temperature for 16 hours. At the end of this time, the reaction product was purified by column chromatography through silica gel, using a 3:1 by volume mixture of hexane and ethyl acetate as the eluent, to give 0.53 g of the title compound as a gum.

reactant | diethyl azodicarboxylate | 450 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 2-(benzylideneaminooxy)ethanol | 383 mg | C(C1=CC=CC=C1)=NOCCO | C9H11NO2
reactant | 5-(4-hydroxybenzyl)-3-tritylthiazolidine-2,4-dione | 1.00 g | OC1=CC=C(CC2C(N(C(S2)=O)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)C=C1 | C29H23NO3S
reactant | triphenylphosphine | 629 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 5-[4-(2-Benzylideneaminooxyethoxy)benzyl]-3-tritylthiazolidine-2,4-dione | 0.53 g | C(C1=CC=CC=C1)=NOCCOC1=CC=C(CC2C(N(C(S2)=O)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)C=C1 | C38H32N2O4S
